US04629797
Methyl 2-(4-bromo-3-hydroxybutanamido)acetate
0.76 ml Diketene is dissolved in 3.5 ml methylene chloride. The solution is cooled to -30° C. and a solution of 0.5 ml bromine in 3.5 ml methylene chloride is added slowly dropwise, after which stirring is continued at -30° C. for 10 mins. This solution is added quickly dropwise to a solution of glycine methyl ester prepared by suspending 1.25 g glycine methyl ester hydrochloride in 20 ml methylene chloride containing 2.8 ml triethylamine, stirring for 30 min and cooling to -30° C. The temperature is allowed to return to ambient with continued stirring. After filtering, and evaporating in vacuo at ambient temperature, the oil remaining is dissolved in 20 ml ethanol, cooled to 0° C. and treated with 100 mg NaBH4. After 5 min the excess hydride is destroyed with dilute acid, the ethanol is evaporated and the residue taken up with ethyl acetate; the solution is washed with brine, dried, evaporated, and purified by chromatography on silica, eluting with ethyl acetate. The title compound is obtained as a white powder, m.p. 60°-61° C.

reactant | Diketene | 0.76 ml | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 0.5 ml | BrBr | Br2
reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
reactant | glycine methyl ester hydrochloride | 1.25 g | Cl.COC(CN)=O
solvent | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-bromo-3-hydroxybutanamido)acetate | BrCC(CC(=O)NCC(=O)OC)O | C7H12BrNO4
